US07557103B2
D. 2-Methyl-benzo[b]thiophene-6-carboxylic Acid
2-Methyl-benzo[b]thiophene-6-carboxylic acid methyl ester (0.83 g, 4.0 mmol) is reacted with NaOH (0.80 g, 20 mmol) in H2O (20 mL). at reflux for 2 h. The reaction is cooled to 0° C. and acidified with 1.0 M HCl to pH (3˜4). It is extracted with EtOAc (3×100 mL); dried with Na2SO4 filtered and concentrated gives the title compound (0.78 g, 4.0 mmol, quant.). 1H NMR (CDCl3): δ 2.64 (d, J=0.89 Hz, 3H), 7.06 (s, 1H), 7.71 (d, J=8.3 Hz, 1H), 8.03 (dd, J=8.3, 1.7 Hz, 1H), 8.54 (d, J=0.8 Hz, 1H) ppm. ES-MS (m/z): calcd for C10H8O2S (M−H)−: 191.2. found: 191.0.

reactant | 2-Methyl-benzo[b]thiophene-6-carboxylic acid methyl ester | 4.0 mmol, 0.83 g | COC(=O)C=1C=CC2=C(SC(=C2)C)C1 | C11H10O2S
reactant | NaOH | 20 mmol, 0.80 g | [OH-].[Na+]
reactant | HCl | 1.0 M | Cl | ClH
solvent | H2O | 20 mL | O | H2O
product | 2-Methyl-benzo[b]thiophene-6-carboxylic Acid | 4.0 mmol, 0.78 g | CC1=CC2=C(S1)C=C(C=C2)C(=O)O | C10H8O2S
